US07238716B2
To a mixture of methyl 2-[2-[[3-[2-(5-methyl-2-phenyl-4-thiazolyl)ethoxy]-5-isoxazolyl]methoxy]phenyl]acetate (0.77 g), tetrahydrofuran (5 mL) and methanol (5 mL) was added a 1N aqueous sodium hydroxide solution (5 mL) and the mixture was stirred at room temperature for 3 hrs. 1N Hydrochloric acid (5 mL) and water were added to the reaction mixture and the precipitated crystals were collected by filtration and dried with air to give crystals (0.71 g, 96%) of 2-[2-[[3-[2-(5-methyl-2-phenyl-4-thiazolyl)ethoxy]-5-isoxazolyl]methoxy]phenyl]acetic acid. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 159-160° C.

reactant | methyl 2-[2-[[3-[2-(5-methyl-2-phenyl-4-thiazolyl)ethoxy]-5-isoxazolyl]methoxy]phenyl]acetate | 0.77 g | CC1=C(N=C(S1)C1=CC=CC=C1)CCOC1=NOC(=C1)COC1=C(C=CC=C1)CC(=O)OC | C25H24N2O5S
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 2-[2-[[3-[2-(5-methyl-2-phenyl-4-thiazolyl)ethoxy]-5-isoxazolyl]methoxy]phenyl]acetic acid | 0.71 g, 96% | CC1=C(N=C(S1)C1=CC=CC=C1)CCOC1=NOC(=C1)COC1=C(C=CC=C1)CC(=O)O | C24H22N2O5S
